US09162983B2
3′-Nitro-7′,8′-dihydro-5′H-spiro[1,3-dioxolane-2,6′-quinoline]
The title compound was prepared according to the procedure of Takada (J. Med. Chem. 1996, 39, 2844-2851). A 350 mL pressure vessel, equipped with a magnetic stir bar, was charged with 1-methyl-3,5-dinitropyridin-2(1H)-one (5.0 g, 25.1 mmol) and 1,4-dioxaspiro[4.5]decan-8-one (4.7 g, 30.1 mmol). Ammonia in MeOH (1M, 200 mL) was added, the vessel was sealed with a screw cap, and the mixture was heated to 60° C. and stirred for 17 hours. The reaction mixture was concentrated and the residue was partitioned with ethyl acetate (200 mL) and water (200 mL). The layers were separated and the aqueous portion was extracted with ethyl acetate (2×100 mL). The organic portions were combined, dried (Na2SO4), filtered, and concentrated. The residue was purified by silica gel chromatography (7/3, hexanes/ethyl acetate) to afford the title compound (4.85 g, 82%).

reactant | 1-methyl-3,5-dinitropyridin-2(1H)-one | 25.1 mmol, 5.0 g | CN1C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C6H5N3O5
reactant | 1,4-dioxaspiro[4.5]decan-8-one | 30.1 mmol, 4.7 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | Ammonia | N | H3N
solvent | MeOH | 1M, 200 mL | CO | CH4O
product | 3′-Nitro-7′,8′-dihydro-5′H-spiro[1,3-dioxolane-2,6′-quinoline] | 4.85 g, 82% | [N+](=O)([O-])C=1C=NC=2CCC3(CC2C1)OCCO3 | C11H12N2O4
